US05587392
Synthesis of 1-(4-chloro-2-methylphenoxy)naphthalene
4-Chloro-2-methylphenol (10 g) and powdery KOH (4.6 g) were mixed together and then heated at 150° C. for 1 hour. After cooling down to 100° C., DMI (50 ml) was added to the resulting mixture for dissolving the mixture. Subsequently, 1-bromonaphthalene (14.5 g) and copper powder (350 mg) were added to the resulting solution, which was then heated under stirring at 130° C. for 3 hours. After leaving the solution to stand at room temperature, 1N NaOH was added to the solution, and then, the product was extracted with ether. The ether layer was washed with 1N NaOH, washed twice with water, and washed once in saturated sodium chloride solution. After drying over anhydrous sodium sulfate, the solvent was removed under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ether=99:1) to give the title compound (2 g; 11%).

reactant | 4-Chloro-2-methylphenol | 10 g | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | KOH | 4.6 g | [OH-].[K+]
reactant | 1-bromonaphthalene | 14.5 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | NaOH | 1N | [OH-].[Na+]
catalyst | copper | 350 mg | [Cu] | Cu
solvent | DMI | 50 ml | CN1CCN(C1=O)C | C5H10N2O
product | 1-(4-chloro-2-methylphenoxy)naphthalene | 2 g, 11% | ClC1=CC(=C(OC2=CC=CC3=CC=CC=C23)C=C1)C | C17H13ClO
